* source CADPRJREALCIRCUIT
R_R1         N13625 0  {rs} TC=0,0 
R_R8         N13575 COMPOUT R_R8 15.8k TC=0,0 
.model        R_R8 RES R=1 DEV=1% TC1=0 TC2=0
Q_Q1         VCC N13921 N17056 Q2N2222
R_R4         VCC N13377 R_R4 1.69k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
X_U3         N13575 N13961 VCC 0 COMPOUT AD8614/AD
V_V1         VCC 0 16Vdc
X_U1         N13625 VCD VCC 0 VCD AD8614/AD
R_R6         N13899 DCOUT R_R6 12.1k TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
R_R7         N13377 N13695 R_R7 4.12k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
R_R3         VCD N13899 R_R3 6.19k TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
R_Relay         0 N19308  55 TC=0,0 
R_R2         VCC N13625 R_R2 80.6k TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
R_R13         N140491 N17056 R_R13 500 TC=0,0 
.model        R_R13 RES R=1 DEV=1% TC1=0 TC2=0
R_R17         DCOUT N13575 R_R17 7.5k TC=0,0 
.model        R_R17 RES R=1 DEV=1% TC1=0 TC2=0
X_D1         N140491 0 D1N5765
R_R18         VCC N13961 R_R18 10k TC=0,0 
.model        R_R18 RES R=1 DEV=1% TC1=0 TC2=0
R_R16         COMPOUT N13921 R_R16 5.36k TC=0,0 
.model        R_R16 RES R=1 DEV=1% TC1=0 TC2=0
R_R19         N13961 0 R_R19 14.7k TC=0,0 
.model        R_R19 RES R=1 DEV=1% TC1=0 TC2=0
R_R5         0 N13377 R_R5 1k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
X_U2         N13695 N13899 VCC 0 DCOUT AD8614/AD
X_U4         N19372 N19308 VCC 0 N19308 AD8614/AD
R_R20         N17056 N19372  2k TC=0,0 
R_R21         N19372 0  1k TC=0,0 
.PARAM  rs=10k
